US07223788B2
Methyl 3-fluoro-4-(4-methylpiperidin-1-yl)benzoate
0.076 g of potassium carbonate was added to a solution of 0.086 g of methyl 3,4-difluorobenzoate and 0.050 g of 4-methylpiperidine in 0.5 ml of DMF. The reaction was heated at 60° C. for 2 days, filtered and purified by preparative HPLC. This resulted in the product with the molecular weight of 251.3 (C14H18FNO2); MS (ESI): 252 (M+H+) as hydrotrifluoroacetate.

reactant | potassium carbonate | 0.076 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3,4-difluorobenzoate | 0.086 g | FC=1C=C(C(=O)OC)C=CC1F | C8H6F2O2
reactant | 4-methylpiperidine | 0.050 g | CC1CCNCC1 | C6H13N
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | Methyl 3-fluoro-4-(4-methylpiperidin-1-yl)benzoate | FC=1C=C(C(=O)OC)C=CC1N1CCC(CC1)C | C14H18FNO2
